US08084395B2
Into 12 mL dimethylacetamide are added 240 mg (2 mmoles) of anhydrous magnesium sulfate, 1.3 mL (12 mmoles) of 4-acetyl pyridine, 515 mg (4 mmoles) of 3-amino-2-chloropyridine and 0.3 mL of acetic acid. The resulting suspension is kept under argon. Then 1.1 g (5.2 mmoles) of potassium phosphate and 202 mg (0.4 mmole) of bis-(tri-t-butylphosphine) palladium are added to the reaction mixture which is then sealed in its reaction vessel and stirred at 140° C. for 10 hours. The reaction mixture is poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue after concentration is purified by chromatography on silica gel (ethylacetate/methanol 9/1) to give 460 mg 2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine as brown solid.

reactant | magnesium sulfate | 2 mmoles, 240 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-acetyl pyridine | 12 mmoles, 1.3 mL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | 3-amino-2-chloropyridine | 4 mmoles, 515 mg | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | potassium phosphate | 5.2 mmoles, 1.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | bis-(tri-t-butylphosphine) palladium | 0.4 mmole, 202 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | dimethylacetamide | 12 mL | CC(=O)N(C)C | C4H9NO
product | 2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 460 mg | N1=CC=C(C=C1)C1=CC2=NC=CC=C2N1 | C12H9N3
